US06015825
(2R,3S)-2-(2,4-Difluorophenyl)-3-(4-[4-methyl-1,2,4-triazol-3-yl]phenyl)-1-(1,2,4-triazol-1-yl)butan-2-ol
A solution of (2R,3S)-2-(2,4-difluorophenyl)-3-(4-[3-mercapto-4-methyl-1,2,4-triazol-5-yl]phenyl)-1-(1,2,4-triazol-1-yl)butan-2-ol (0.6 g, 1.4 mmol) in acetic acid (10 ml) was heated under reflux and treated with aqueous hydrogen peroxide (30%, 0.5 ml, 8 mmol) dropwise. After a further 0.5 hour at reflux, the mixture was cooled to room temperature and evaporated under reduced pressure. The residue was partitioned between ethyl acetate (20 ml) and saturated sodium bicarbonate solution (20 ml). The organic phase was washed with brine (20 ml), dried (Na2SO4) and evaporated under reduced pressure.

reactant | (2R,3S)-2-(2,4-difluorophenyl)-3-(4-[3-mercapto-4-methyl-1,2,4-triazol-5-yl]phenyl)-1-(1,2,4-triazol-1-yl)butan-2-ol | 1.4 mmol, 0.6 g | FC1=C(C=CC(=C1)F)[C@@](CN1N=CN=C1)([C@@H](C)C1=CC=C(C=C1)C=1N(C(=NN1)S)C)O | C21H20F2N6OS
reactant | hydrogen peroxide | 8 mmol, 0.5 ml | OO | H2O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | (2R,3S)-2-(2,4-Difluorophenyl)-3-(4-[4-methyl-1,2,4-triazol-3-yl]phenyl)-1-(1,2,4-triazol-1-yl)butan-2-ol | FC1=C(C=CC(=C1)F)[C@@](CN1N=CN=C1)([C@@H](C)C1=CC=C(C=C1)C1=NN=CN1C)O | C21H20F2N6O
